US05214037
To a solution of 4-benzoylthiomethylthio-1,2,3-triazole (150 mg: 0.60 mMol.) in dimethylformamide (3 ml) at -60° C. is added a solution of sodium methoxide in methanol (1.26N: 0.95 ml), and the mixture is stirred for 80 minutes at -50° to -60° C. to the mixture at -7020 C. is added a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2trityloxyiminoacetamido]-3-methanesulfonyloxy-3-cephem-4carboxylic acid diphenylmethyl ester (485 mg : 0.5 mMol.) in dimethylformamide (2 ml) and the mixture is stirred at -70° C. for 20 minutes. The reaction mixture is mixed with acetic acid (0.1 ml), diluted with water, and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, and concentrated. The residue is crystallized from toluene to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)- 2-trityloxyiminoacetamido]-3-(1,2,3-triazol- 4-ylthiomethylthio)-3- cephem-4-carboxylic acid diphenylmethyl ester (227 mg) as colorless crystals. Yield : 44%.

reactant | 4-benzoylthiomethylthio-1,2,3-triazole | 0.60 mMol, 150 mg | C(C1=CC=CC=C1)(=O)SCSC=1N=NNC1 | C10H9N3OS2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2trityloxyiminoacetamido]-3-methanesulfonyloxy-3-cephem-4carboxylic acid diphenylmethyl ester | 0.5 mMol, 485 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C50H45N5O10S3
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 1.26N, 0.95 ml | CO | CH4O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)- 2-trityloxyiminoacetamido]-3-(1,2,3-triazol- 4-ylthiomethylthio)-3- cephem-4-carboxylic acid diphenylmethyl ester | 227 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2N=NNC2 | C52H46N8O7S4
